US04889855
b. 1,2-Diethoxalylamino-4-nitronaphthalene
A solution of 1,2-diethoxalylaminonaphthalene (10.8 g, 0.03 mol) in 150 ml of acetic acid was treated dropwise with nitric acid (1.24 ml, 0.03 mol, d 1.52) and stirred over night at room temperature. Then an additional amount of nitric acid (2.0 ml, d 1.52) was added dropwise and the mixture was stirred for 17 h at room temperature. The mixture was poured into 200 ml of ice/water and the resulting precipitate was isolated by filtration and washed with water, a small amount of cold ethanol and ether affording 3.3 g (27%) of pure product,

reactant | 1,2-diethoxalylaminonaphthalene | 0.03 mol, 10.8 g | C(=O)(C(=O)OCC)NC1=C(C=CC2=CC=CC=C12)NC(=O)C(=O)OCC | C18H18N2O6
reactant | nitric acid | 0.03 mol, 1.24 ml | [N+](=O)(O)[O-] | HNO3
reactant | nitric acid | 2.0 ml | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
product | 1,2-Diethoxalylamino-4-nitronaphthalene | C(=O)(C(=O)OCC)NC1=C(C=C(C2=CC=CC=C12)[N+](=O)[O-])NC(=O)C(=O)OCC | C18H17N3O8
